US05081253
2-[[(3 -Methoxyphenyl)ethyl]sulfinyl]-1H-imidazo[4,5-c]pyridine
2-[[(3-Methoxyphenyl)ethyl]thio]-1H-imidazo[4,5-c]pyridine (4.0 g, 0.014 mol) was dissolved in 60 mL of chloroform and cooled in an ice bath to 0°-5° C. m-Chloroperoxybenzoic acid (3.13 g, 0.015 mol) was added in portions to the reaction mixture. After 45 minutes, 10% aqueous sodium bicarbonate solution was added. The organic layer was removed and dried over magnesium sulfate, filtered and evaporated to dryness in a rotary evaporator. The crude product (4.2 g) when subjected to HPLC gave 2.3 g of pure product, m.p. 125°-128° C.

reactant | 2-[[(3-Methoxyphenyl)ethyl]thio]-1H-imidazo[4,5-c]pyridine | 0.014 mol, 4.0 g | COC=1C=C(C=CC1)CCSC=1NC2=C(C=NC=C2)N1 | C15H15N3OS
reactant | m-Chloroperoxybenzoic acid | 0.015 mol, 3.13 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[[(3 -Methoxyphenyl)ethyl]sulfinyl]-1H-imidazo[4,5-c]pyridine | 2.3 g | COC=1C=C(C=CC1)CCS(=O)C=1NC2=C(C=NC=C2)N1 | C15H15N3O2S
